US09278944B2
1-Bromo-3-fluoro-5-(3-methoxypropoxy)benzene (4.0 g) was added to water (30.4 mL), and then thereto were added ethylene glycol monovinyl ether (6.8 mL), potassium carbonate (2.52 g), 1,3-bis(diphenylphosphino)propane (125 mg) and palladium acetate (34 mg), and the mixture was heated to stir at 90° C. for 22 hours. After cooling, thereto was added concentrated hydrochloric acid (7.2 mL), and the mixture was stirred at room temperature for 20 minutes. The reaction solution was extracted with ethyl acetate, washed with saturated saline, and then dried over magnesium sulfate. After concentrating under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=20/1→2/1) to give 1-[3-fluoro-5-(3-methoxypropoxy)phenyl]ethanone [REx(19-2)] (1.03 g) as a yellow oil.

reactant | 1-Bromo-3-fluoro-5-(3-methoxypropoxy)benzene | 4.0 g | BrC1=CC(=CC(=C1)OCCCOC)F | C10H12BrFO2
reactant | ethylene glycol monovinyl ether | 6.8 mL | C(=C)OCCO | C4H8O2
reactant | potassium carbonate | 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 7.2 mL | Cl | ClH
catalyst | palladium acetate | 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 125 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | water | 30.4 mL | O | H2O
product | 1-[3-fluoro-5-(3-methoxypropoxy)phenyl]ethanone | 1.03 g | FC=1C=C(C=C(C1)OCCCOC)C(C)=O | C12H15FO3
